US07198859B2
9.5 g (˜43 mmol) of 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol, 6.8 g (˜43 mmol) of 2-bromopyridine, 1.5 g (1.3 mmol) of Pd(PPh3)4, and 16 g (116 mmol) of K2CO3 were added to a 250 mL round bottle flask, along with a solvent mixture of 120 mL of dimethoxyethane and 150 mL of water. The mixture was heated to reflux for 24 hours under nitrogen. The reaction mixture was extracted with ethyl acetate and the organic phase was separated on silica gel column with 15% ethyl acetate as elute solvent. ˜5.9 g (yield ˜80%) of 2-(2-hydroxyphenyl)pyridine was obtained as a colorless liquid.

reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | ˜43 mmol, 9.5 g | CC1(OB(OC1(C)C)C1=C(C=CC=C1)O)C | C12H17BO3
reactant | 2-bromopyridine | ˜43 mmol, 6.8 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | K2CO3 | 116 mmol, 16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethoxyethane | 120 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 1.3 mmol, 1.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 150 mL | O | H2O
product | 2-(2-hydroxyphenyl)pyridine | ˜5.9 g, yield ˜80% | OC1=C(C=CC=C1)C1=NC=CC=C1 | C11H9NO
